US07399775B2
4-(t-Butyldiphenylsilyloxy)-1-methyl-1-butanol
In N,N-dimethylformamide (200 ml) were dissolved 1,4-pentanediol (10.0 g, 96.0 mmol) and imidazole (6.6 g, 96.9 mmol). Under ice cooling, t-butyl chlorodiphenylsilane (25.2 ml, 96.4 mmol) was added dropwise. After completion of the dropwise addition, the reaction mixture was stirred at room temperature for 2 days. To the reaction mixture was added diethyl ether, followed by washing with water. The organic layer was dried over anhydrous magnesium sulfate. After filtration, the residue obtained by concentrating the filtrate under reduced pressure was purified by silica gel chromatography (hexane:ethyl acetate=5:1), whereby the title compound (32.0 g, 97%) was obtained as a colorless oil.

reactant | 1,4-pentanediol | 96.0 mmol, 10.0 g | C(CCC(C)O)O | C5H12O2
reactant | imidazole | 96.9 mmol, 6.6 g | N1C=NC=C1 | C3H4N2
reactant | t-butyl chlorodiphenylsilane | 96.4 mmol, 25.2 ml | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-(t-Butyldiphenylsilyloxy)-1-methyl-1-butanol | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCC(O)C | C21H30O2Si
